US06627651B1
To 7-(4-methylphenyl)-2,3-dihydro-1-benzooxepine-4-carboxylic acid (1402 mg, 5.00 mmol) dissolved in DMF (30 ml) were added at 0° C. 1-hydroxybenzotriazole (743 mg, 5.50 mmol), 2-[1-(tert-butoxycarbonyl)piperidin-4-yl]ethylamine (1256 mg, 5.50 mmol) and 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (1438 mg, 7.50 mmol), and the resulting mixture was stirred at room temperature for 8 hours. The reaction mixture was concentrated, ethyl acetate (120 ml) was added to the residue and the resulting mixture was washed successively with water (30 ml), an aqueous saturated solution of sodium bicarbonate (20 ml×3) and an aqueous saturated solution of sodium chloride (20 ml). The organic layer was dried with anhydrous magnesium sulfate and was then concentrated under reduced pressure, and the residue was subjected to column chromatography (silica gel, ethyl acetate/hexane=1/2→1/1). The objective fractions were concentrated under reduced pressure and were mixed with diisopropyl ether to collect an insoluble material by filtration. The insoluble material was washed with diisopropyl ether and was dried under reduced pressure to obtain N-[2-[1-(tert-butoxycarbonyl)piperidin-4-yl]ethyl]-7-(4-methylphenyl)-2,3-dihydro-1-benzooxepine-4-carboxamide (1.64 g, 3.34 mmol, 67%).

reactant | 7-(4-methylphenyl)-2,3-dihydro-1-benzooxepine-4-carboxylic acid | 5.00 mmol, 1402 mg | CC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCO2)C(=O)O)C1 | C18H16O3
reactant | 1-hydroxybenzotriazole | 5.50 mmol, 743 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 2-[1-(tert-butoxycarbonyl)piperidin-4-yl]ethylamine | 5.50 mmol, 1256 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CCN | C12H24N2O2
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 7.50 mmol, 1438 mg | Cl.CN(CCCN=C=NCC)C
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | N-[2-[1-(tert-butoxycarbonyl)piperidin-4-yl]ethyl]-7-(4-methylphenyl)-2,3-dihydro-1-benzooxepine-4-carboxamide | 3.34 mmol, 1.64 g, 67% | C(C)(C)(C)OC(=O)N1CCC(CC1)CCNC(=O)C=1CCOC2=C(C1)C=C(C=C2)C2=CC=C(C=C2)C | C30H38N2O4
